US05242890
3-(iminomethoxymethyl)-5-[(2,4-dichlorophenoxy)methyl]-1,2,4-oxadiazole: Compound No. 125
2.17 g of 3-(trichloromethyl)-5-[(2,4-dichlorophenoxy)methyl]-1,2,4-oxadiazole was added to 50 ml of methanol. An excess of ammonia gas was added with formation of bubble at 0° C. and then the mixture was stirred at room temperature for 4 hours. After evaporation of methanol, water was added to the residue. The aqueous solution was extracted with ethylacetate. After evaporation of ethylacetate, the residue was purified by column chromatography(hexane:ethylacetate) to provide 0.92 g of the desired product(yield: 50.9%).

reactant | 3-(trichloromethyl)-5-[(2,4-dichlorophenoxy)methyl]-1,2,4-oxadiazole | 2.17 g | ClC(C1=NOC(=N1)COC1=C(C=C(C=C1)Cl)Cl)(Cl)Cl | C10H5Cl5N2O2
reactant | ammonia | N | H3N
reactant | methanol | 50 ml | CO | CH4O
product | 3-(iminomethoxymethyl)-5-[(2,4-dichlorophenoxy)methyl]-1,2,4-oxadiazole | 0.92 g, yield: 50.9% | N=COCC1=NOC(=N1)COC1=C(C=C(C=C1)Cl)Cl | C11H9Cl2N3O3
